US07893056B2
4-Methyl-7-(phenylmethyl)-4,7-diazaspiro[2.5]octane (1.43 g, 6.624 mmol) was dissolved in 10 mL of MeOH, degassed and placed under argon. Pd(OH)2 (140 mg) was added, and the contents were hydrogenated for 4 h under 50 psi. The contents were then filtered to remove the catalyst, 1N HCl (14.57 mL, 14.57 mmol) was added to the filtrate, and the filtrate was concentrated in vacuo to provide pure 4-methyl-4-aza-7-azoniaspiro[2.5]octane, dihydrochloride (0.8 g, 60%). LCMS: (M+H)+: 127.2.

reactant | 4-Methyl-7-(phenylmethyl)-4,7-diazaspiro[2.5]octane | 6.624 mmol, 1.43 g | CN1C2(CC2)CN(CC1)CC1=CC=CC=C1 | C14H20N2
reactant | HCl | 14.57 mmol, 1N, 14.57 mL | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | 4-methyl-4-aza-7-azoniaspiro[2.5]octane, dihydrochloride | 0.8 g, 60% | Cl.Cl.CN1C2(CC2)C[NH2+]CC1 | InChI=1S/C7H14N2.2ClH/c1-9-5-4-8-6-7(9)2-3-7;;/h8H,2-6H2,1H3;2*1H/p+1
